US04410534
A solution of methyl 2-benzoyl-6,7,8,9-tetrahydro-5H-pyrrolo[1,2-a]azepine-9-carboxylate (1.00 g., 0.0034 moles) in methanol (30 ml.) and water (10 ml.) containing potassium carbonate (0.940 g., 0.0068 moles) was heated at reflux temperature, in a nitrogen atmosphere, for 2 hours. The solvent was removed in vacuo, water (25 ml.) was added and the solution was extracted with ether (2×50 ml.). The aqueous phase was cooled to 5°, oxalic acid (2.55 g., 0.02 moles) was added, and after agitation for 0.5 hours the product was extracted into ethyl acetate (3×100 ml.). The extract was washed with water, dried over sodium sulfate and evaporated in vacuo. The residue, on crystallization from ethylacetate/hexane gives 3-benzoyl-5,6,7,8-tetrahydro-9H-pyrrolo[1,2-a]azepine-9-carboxylic acid in 73% yield, m.p. 163°-165° C.

reactant | methyl 2-benzoyl-6,7,8,9-tetrahydro-5H-pyrrolo[1,2-a]azepine-9-carboxylate | 0.0034 moles, 1.00 g | C(C1=CC=CC=C1)(=O)C=1C=C2N(CCCCC2C(=O)OC)C1 | C18H19NO3
reactant | potassium carbonate | 0.0068 moles, 0.940 g | C([O-])([O-])=O.[K+].[K+]
reactant | oxalic acid | 0.02 moles, 2.55 g | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 3-benzoyl-5,6,7,8-tetrahydro-9H-pyrrolo[1,2-a]azepine-9-carboxylic acid | 73% yield | C(C1=CC=CC=C1)(=O)C1=CC=C2N1CCCCC2C(=O)O | C17H17NO3
